US05919795
6-[(4'-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
7.6 g (29 mmol) of 4'-trifluoromethyl-biphenyl-2-carboxylic acid, 7.1 g (29 mmol) of 6-amino-3,4-dihydro-1H-isoquinoline-2-caboxyiic acid tert-butyl ester, 100 mg of DMAP and 6.1 g (32 mmol) of EDCl were mixed in 130 ml of methylene chloride for 12 hrs. Reaction was extracted with 2×150 ml 1N HCl, 2×150 ml 1N NaOH, 150 ml water, brine and concentrated to yield 14 g of a beige foam.

reactant | 4'-trifluoromethyl-biphenyl-2-carboxylic acid | 29 mmol, 7.6 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)(F)F | C14H9F3O2
reactant | 6-amino-3,4-dihydro-1H-isoquinoline-2-caboxyiic acid tert-butyl ester | 29 mmol, 7.1 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)N | C14H20N2O2
reactant | EDCl | 32 mmol, 6.1 g | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
product | 6-[(4'-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 14 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C28H27F3N2O3
